M12 (VOUT1 net41 net48 VDD) pmos4
M11 (VOUT2 net38 net49 VDD) pmos4
M10 (net48 VOUT2 net18 VDD) pmos4
M9 (net49 VOUT1 net18 VDD) pmos4
? Missing component
M2 (net41 VIN2 net24 VDD) pmos4
M1 (net38 VIN1 net24 VDD) pmos4
M0 (net24 VCLK1 VDD VDD) pmos4
M16 (VOUT1 VCLK2 VSS VSS) nmos4
M15 (VOUT1 VOUT2 VSS VSS) nmos4
M14 (VOUT2 VOUT1 VSS VSS) nmos4
M13 (VOUT2 VCLK2 VSS VSS) nmos4
M7 (net41 VCLK2 VSS VSS) nmos4
M6 (net38 VCLK2 VSS VSS) nmos4
M5 (net23 VDD VSS VSS) nmos4
M4 (net38 net41 net23 VSS) nmos4
M3 (net41 net38 net23 VSS) nmos4
